US20010041707A1
To a solution of 1′,2′,3′,4′,5′,6′-hexahydro[2,4′]bipyridinyl (1.7 g, 10 mmol) in dichloromethane (100 mL) was added di-tert-butyldicarbonate (2.2 g, 10 mmol) followed by saturated aqueous sodium bicarbonate solution (100 mL). The mixture was stirred vigorously for 2 days, when the layers were separated and the aqueous layer extracted with dichloromethane (1×100 mL). The combined organic layers were dried with sodium sulfate, filtered and concentrated in vacuo to provide crude 4′-tert-butoxycarbonyl-1′,2′,3′,4′,5′,6′-hexahydro[2,4′]bipyridinyl which was used as is in step b.

reactant | 1′,2′,3′,4′,5′,6′-hexahydro[2,4′]bipyridinyl | 10 mmol, 1.7 g | N1=C(C=CC=C1)C1CCNCC1 | C10H14N2
reactant | di-tert-butyldicarbonate | 10 mmol, 2.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4′-tert-butoxycarbonyl-1′,2′,3′,4′,5′,6′-hexahydro[2,4′]bipyridinyl | C(C)(C)(C)OC(=O)C1(CCNCC1)C1=NC=CC=C1 | C15H22N2O2
